US07338960B2
4-(1-Chloropentyl)-4′-(trifluoromethyl)biphenyl
To a solution of 1-[4′-(trifluoromethyl)-4-biphenylyl]-1-pentanol (250 mg, 0.81 mmol) in dry DCM (15 mL) under nitrogen at 0° C. (ice/water bath) was added thionyl chloride (590 μL, 8.09 mmol) drop-wise. After stirring the mixture for 30 minutes at rt under nitrogen, the reaction was quenched by cautious addition of saturated aqueous NaHCO3 (20 mL) and extracted with DCM (3×30 mL). The organic extract was separated, washed with brine, dried (MgSO4) and the solvents removed under vacuum to afford the title compound as a yellow gum (251 mg).

reactant | 1-[4′-(trifluoromethyl)-4-biphenylyl]-1-pentanol | 0.81 mmol, 250 mg | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)C(CCCC)O)(F)F | C18H19F3O
reactant | thionyl chloride | 8.09 mmol, 590 μL | S(=O)(Cl)Cl | Cl2OS
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 4-(1-Chloropentyl)-4′-(trifluoromethyl)biphenyl | 251 mg | ClC(CCCC)C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F | C18H18ClF3
